US05244889
Methyl (3R)-6-(acetylthiomethyl)-5-oxo-1-thia-4-azacyclotridecane-3-carboxylate (Isomer B) (0.16 g, 0.44 mmol) is partially dissolved in nitrogen degassed tetrahydrofuran (10 ml) and water (5 ml). Lithium hydroxide monohydrate (0.056 g, 1.33 mmol) is added and the mixture is stirred at room temperature for 3 hours. The mixture is poured into 1N hydrochloric acid and extracted with ethyl acetate (2×50 ml). The combined organic layers are washed with brine (1×50 ml), dried (Na2SO4) and the solvent is evaporated to give (3R)-6-mercaptomethyl-5-oxo-1-thia-4-azacyclotridecane-3-carboxylic acid (Isomer B), m.p. 169°-173° C.; the more active NEP inhibiting isomer.

reactant | Methyl (3R)-6-(acetylthiomethyl)-5-oxo-1-thia-4-azacyclotridecane-3-carboxylate | 0.44 mmol, 0.16 g | C(C)(=O)SCC1C(N[C@@H](CSCCCCCCC1)C(=O)OC)=O | C16H27NO4S2
reactant | Lithium hydroxide monohydrate | 1.33 mmol, 0.056 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
product | (3R)-6-mercaptomethyl-5-oxo-1-thia-4-azacyclotridecane-3-carboxylic acid | SCC1C(N[C@@H](CSCCCCCCC1)C(=O)O)=O | C13H23NO3S2
